US05990102
6-Iodo-1-phenylhexane (17.43 g, 0.061 mol), acetyl acetone (6.66 g, 0.067) and potassium carbonate (8.41 g, 0.061 mol) were dissolved in dry absolute ethanol (75 ml) and the solution was refluxed for 18 hours. After cooling to room temperature the solution was filtered and evaporated under reduced pressure to an oil. This was partitioned between ethyl acetate (80 ml) and water (80 ml), and the organic layer was washed with brine, dried and evaporated to an orange oil (15.27 g). This was purified by flash chromatography on silica gel using petroleum ether/ethyl acetate to give 9-phenylnonan-2-one as a colourless oil (7.12 g, 54%).

reactant | 6-Iodo-1-phenylhexane | 0.061 mol, 17.43 g | ICCCCCCC1=CC=CC=C1 | C12H17I
reactant | acetyl acetone | 6.66 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | potassium carbonate | 0.061 mol, 8.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 9-phenylnonan-2-one | 7.12 g, 54% | C1(=CC=CC=C1)CCCCCCCC(C)=O | C15H22O
